US07871998B2
(4S)-3-({[(5,5-Dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}acetyl)-4-phenyl-1,3-oxazolidin-2-one
{[(5,5-Dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}acetic acid (9.9 g, 33.0 mmol) was dissolved in dry CH2Cl2 (250 ml) and cooled to 0° C. N,N′-Dicyclohexylcarbodiimide (DCC, 7.63 g, 37.0 mmol) and 4-(dimethylamino)pyridine (DMAP, 8.57 g, 70.0 mmol) were added and the mixture was stirred at 0° C. for 20 minutes. (S)-(+)-4-Phenyl-2-oxazolidinone (5.38 g, 33.0 mmol) was added and the mixture was stirred at room temperature for 70 h. The mixture was filtered, concentrated under reduced pressure and purified by flash-chromatography (hexane:EtOAc-7:3). This afforded 10.2 g (70%) of the title compound as a white solid. 1H-NMR (CDCl3, 200 MHz): 0.6 (s, 3H), 1.3 (s, 3H), 2.8 (s, 2H), 3.4 (s, 4H), 3.8 (s, 2H), 4.1-4.15 (dd, 1H), 4.6-4.8 (t, 1H), 5.35-5.45 (dd, 1H), 7.25-7.45 (m, 9H).

reactant | {[(5,5-Dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}acetic acid | 33.0 mmol, 9.9 g | CC1(COC(OC1)(C1=CC=CC=C1)CSCC(=O)O)C | C15H20O4S
reactant | N,N′-Dicyclohexylcarbodiimide | 37.0 mmol, 7.63 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (S)-(+)-4-Phenyl-2-oxazolidinone | 33.0 mmol, 5.38 g | C1(=CC=CC=C1)[C@@H]1NC(OC1)=O | C9H9NO2
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 70.0 mmol, 8.57 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (4S)-3-({[(5,5-Dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}acetyl)-4-phenyl-1,3-oxazolidin-2-one | CC1(COC(OC1)(C1=CC=CC=C1)CSCC(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)C | C24H27NO5S
